US04163018
Water (19 L) was added to lauryl phosphate (molar ratio of diester/monoester=1/1; acid value, 240.2 mg KOH/g) (1 kg) while heating at 60° C., whereby the lauryl phosphate was dispersed uniformly. An aqueous solution of sodium hydroxide (300 g/L) (571 ml) was dropwise added to the mixture while keeping the said temperature. When the addition was finished, the mixture showed a pH of about 11. Further, stirring was continued at 60° C. for 60 minutes. An aqueous solution of calcium chloride (300 g/L) (802 ml) was gradually added thereto at a temperature of 50 to 60° C. After the addition was finished, the mixture was stirred at about 55° C. for 60 minutes. On confirming that the remaining calcium ion became constant, the reaction was finished. The product was collected, washed with water, filtered, dried at 70° C. for 76 hours and pulverized in a mortar to give calcium lauryl phosphate (1031 g). Yield, 95.2%. Decomposition point, >230° C. Apparent specific volume, 4.0 ml/g. Elementary analysis: calcd., P=8.2%, Ca=8.0%; found, P=8.3%, Ca=7.8%.

reactant | lauryl phosphate | 240.2 mg | P(=O)(OCCCCCCCCCCCC)([O-])[O-]
reactant | sodium hydroxide | 571 ml | [OH-].[Na+]
reactant | calcium chloride | 802 ml | [Cl-].[Ca+2].[Cl-]
solvent | Water | 19 L | O | H2O
product | calcium lauryl phosphate | 1031 g | P(=O)(OCCCCCCCCCCCC)([O-])[O-].[Ca+2] | InChI=1S/C12H27O4P.Ca/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H2,13,14,15);/q;+2/p-2
